US04717724
2-Allyl-6-[(2RS,4SR)-2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyloxy]-1,2,3,4-tetrahydroisoquinoline
1.89 g of 2-allyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline are added to a freshly prepared solution of alcoholate from 0.23 g of sodium in 30 ml of dry ethanol, the mixture is stirred for 15 minutes, 4.07 g of (2RS,4SR)-2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyl methanesulfonate are added, and the mixture is then heated under reflux for 8 hours. After cooling, the ethanol is removed in a rotary evaporator, and the residue is taken up with a mixture of 50 ml of water and 50 ml of methylene chloride. The organic phase is shaken twice more with water, dried over magnesium sulfate and evaporated in a rotary evaporator. The residue is purified by column chromatography on silica gel using a mixture of ethyl acetate/methanol 4:1. 1.3 g of a colorless resin (26% of theory) which gradually crystallizes is obtained. Melting point 94°-95° C.

reactant | 2-allyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 1.89 g | C(C=C)N1CC2=CC=C(C=C2CC1)O | C12H15NO
reactant | sodium | 0.23 g | [Na] | Na
reactant | (2RS,4SR)-2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyl methanesulfonate | 4.07 g | CS(=O)(=O)OCC1OC(OC1)(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C15H16Cl2N2O5S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Allyl-6-[(2RS,4SR)-2-(2,4-dichlorophenyl)-2-(1H-imidazol-1-ylmethyl)-1,3-dioxolan-4-ylmethyloxy]-1,2,3,4-tetrahydroisoquinoline | C(C=C)N1CC2=CC=C(C=C2CC1)OCC1OC(OC1)(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | C26H27Cl2N3O3
